US04764521
7-(2-Propyl-3,4-dichlorophenoxy)heptanoic acid
A solution of 3.09 g. of 2-propyl-3,4-dichlorophenol, 3.1 g. of 7-bromoheptanoic acid, 3.1 g. of potassium carbonate, and 2.0 g. of potassium iodide in 50 ml. of methyl ethyl ketone was heated at reflux overnight. The reaction mixture was cooled to room temperature and evaporated in vacuo. Ethyl acetate and water were added to the residue and the layers were separated. Fresh water was added to the organic layer, the pH was adjusted to 2.0 with acid, and the layers were separated. The organic layer was washed with a saturated sodium chloride solution, filtered through sodium sulfate, and evaporated to dryness to give 4.68 g. of the desired title product.

reactant | 2-propyl-3,4-dichlorophenol | C(CC)C1=C(C=CC(=C1Cl)Cl)O | C9H10Cl2O
reactant | 7-bromoheptanoic acid | BrCCCCCCC(=O)O | C7H13BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 7-(2-Propyl-3,4-dichlorophenoxy)heptanoic acid | C(CC)C1=C(OCCCCCCC(=O)O)C=CC(=C1Cl)Cl | C16H22Cl2O3
